US09403835B2
Step 2: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-((S)-pyrrolidin-3-yloxymethyl)-phenyl]-methanone
A mixture of (S)-3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-benzyloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester (60 mg; 0.11 mmol; 1 eq.) and TFA (2 mL) in DCM (2 mL) was stirred at room temperature for 15 minutes then concentrated in vacuo. The residue was taken up in water, the pH made basic with 5M NaOH and extracted with DCM (2×). The combined organic layer was dried over magnesium sulfate and concentrated in to afford the title compound (49 mg, quantitative) as an off-white solid. 1H NMR (CDCl3) δ 7.46-7.33 (m, 4H), 5.02-4.95 (m, 2H), 4.68-4.46 (m, 4H), 4.21 (m, 1H), 3.26-2.97 (m, 1H), 2.92-2.82 (m, 3H), 2.70-2.58 (m, 3H), 1.96-1.59 (m, 2H). HPLC (max plot) 100%, Rt 2.56 min. UPLC/MS: (MS+) 426.2 ([M+H]+).

reactant | (S)-3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-benzyloxy]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.11 mmol, 60 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OCC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C27H32ClN5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-((S)-pyrrolidin-3-yloxymethyl)-phenyl]-methanone | 49 mg | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)CO[C@@H]3CNCC3)C | C22H24ClN5O2
